US07550629B2
A. Methyl 2-amino-3-(trifluoromethyl)-4,4,4-trifluorobutanoate
A solution of 4,4,4,4′,4′,4′-hexafluoro-dl-valine (2.00 g, 8.89 mmol) in CH2Cl2:MeOH (4:1, 50 mL) was stirred under nitrogen at 0° C. TMS diazomethane (5.33 mL, 2.0 M in hexane) was added dropwise and the resulting solution stirred for 4 hours at 25° C. After this time period, the reaction was complete by TLC (10% MeOH: chloroform). After concentration, the resulting residue (2.12 g, 99%) was used directly in the next reaction without further purification.

reactant | 4,4,4,4′,4′,4′-hexafluoro-dl-valine | 8.89 mmol, 2.00 g | FC(C(C(N)C(=O)O)C(F)(F)F)(F)F | C5H5F6NO2
reactant | TMS diazomethane | 2.0 M, 5.33 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | MeOH | CO | CH4O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 MeOH | 50 mL | C(Cl)Cl.CO
product | Methyl 2-amino-3-(trifluoromethyl)-4,4,4-trifluorobutanoate | NC(C(=O)OC)C(C(F)(F)F)C(F)(F)F | C6H7F6NO2
